US03947473
A solution of (±)-6-acetoxy-2-methoxy-5,7,8-trimethylchroman, prepared as described in Example 2 from 0.1 mole of (±)-6-hydroxy-2-methoxy-5,7,8-trimethylchroman, in 200 ml. of 1:1 acetic acid-H2O was heated at reflux under a nitrogen atmosphere for 1.5 hours. The mixture was cooled, diluted with 200 ml. of H2O and filtered. The solid was washed with H2O and dried to give (±)-6-acetoxy-2-hydroxy-5,7,8-trimethylchroman as a white solid, m.p. 115°-120°.

reactant | (±)-6-acetoxy-2-methoxy-5,7,8-trimethylchroman | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)OC)C | C15H20O4
reactant | (±)-6-hydroxy-2-methoxy-5,7,8-trimethylchroman | 0.1 mole | OC=1C(=C2CCC(OC2=C(C1C)C)OC)C | C13H18O3
solvent | acetic acid H2O | C(C)(=O)O.O
product | (±)-6-acetoxy-2-hydroxy-5,7,8-trimethylchroman | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)O)C | C14H18O4
